.subckt TB6612_MODEL AO1 AO2 BO1 BO2 PWMA PWMB AIN1 AIN2 BIN1 BIN2 STBY VM GND
* Mach dieu khien Kenh A
E_LOGIC_A1 INA1_RAW 0 VALUE = { (V(STBY)>1.5) * (V(PWMA)>1.5) * (V(AIN1)>1.5) * (V(AIN2)<1.5) * 5 }
R_FILT_A1 INA1_RAW INA1 1k
C_FILT_A1 INA1 0 10pF

E_LOGIC_A2 INA2_RAW 0 VALUE = { (V(STBY)>1.5) * (V(PWMA)>1.5) * (V(AIN1)<1.5) * (V(AIN2)>1.5) * 5 }
R_FILT_A2 INA2_RAW INA2 1k
C_FILT_A2 INA2 0 10pF

* Sw_H bat khi Logic High, Sw_L bat khi Logic Low (keo xuong GND)
S_H1 VM AO1 INA1 0 SW_HI
S_L1 AO1 GND INA1 0 SW_LO
S_H2 VM AO2 INA2 0 SW_HI
S_L2 AO2 GND INA2 0 SW_LO

* Mach dieu khien Kenh B
E_LOGIC_B1 INB1_RAW 0 VALUE = { (V(STBY)>1.5) * (V(PWMB)>1.5) * (V(BIN1)>1.5) * (V(BIN2)<1.5) * 5 }
R_FILT_B1 INB1_RAW INB1 1k
C_FILT_B1 INB1 0 10pF

E_LOGIC_B2 INB2_RAW 0 VALUE = { (V(STBY)>1.5) * (V(PWMB)>1.5) * (V(BIN1)<1.5) * (V(BIN2)>1.5) * 5 }
R_FILT_B2 INB2_RAW INB2 1k
C_FILT_B2 INB2 0 10pF

S_H3 VM BO1 INB1 0 SW_HI
S_L3 BO1 GND INB1 0 SW_LO
S_H4 VM BO2 INB2 0 SW_HI
S_L4 BO2 GND INB2 0 SW_LO

.model SW_HI SW(Vt=2.5 Vh=0.5 Ron=0.1 Roff=1Meg)
.model SW_LO SW(Vt=2.5 Vh=0.5 Ron=1Meg Roff=0.1)
.ends TB6612_MODEL